US06093732
3-(3-([(4-Chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propyl 2-morpholinoacetate
Morpholine (0.03 mL) is added to a solution of 3-(3-{[(4-chlorobenzyl)amino]-carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propyl 2-bromoacetate from Example No. 145 (0.10 g) and Et3N (0.040 mL) in 5 mL DMF. The reaction is stirred at room temperature after which time reaction is complete. The reaction is partitioned between CH2Cl2 (50 mL) and H2O (25 mL). The organic layer is washed twice with H2O, and once with brine. The aqueous layers are combined and back-extracted with CH2Cl2. The organics are combined, dried over Na2SO4, filtered, and concentrated in vacuo to give a yellow liquid. The liquid is re-dissolved in CH2Cl2 and adsorbed onto silica. Chromatography on a Biotage Flash 40S column (eluent 1% MeOH:CH2Cl2 (1 L), followed by 2% MeOH:CH2Cl2 (2 L) and 5% MeOH:CH2Cl2 (1 L)) affords the desired product as a white solid (0.070 g, 68%).

reactant | Morpholine | 0.03 mL | N1CCOCC1 | C4H9NO
reactant | 3-(3-{[(4-chlorobenzyl)amino]-carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propyl 2-bromoacetate | BrCC(=O)OCCCC=1C=C2C(=C(C=NC2=C(C1)F)C(=O)NCC1=CC=C(C=C1)Cl)O | C22H19BrClFN2O4
reactant | Et3N | 0.040 mL | CCN(CC)CC | C6H15N
reactant | MeOH | CO | CH4O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 L | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 L | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 L | C(Cl)Cl | CH2Cl2
product | 3-(3-([(4-Chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propyl 2-morpholinoacetate | 0.070 g, 68% | O1CCN(CC1)CC(=O)OCCCC=1C=C2C(=C(C=NC2=C(C1)F)C(=O)NCC1=CC=C(C=C1)Cl)O | C26H27ClFN3O5
